US04696913
(c) Z-D-Lys(Boc)-Phe-OMe
43.2 g of Z-D-Lys(Boc)-OH, prepared analogously to the L-compound, are dissolved in 400 ml of dimethylformamide. 24.5 g of H-Phe-OMe.HCl, 15.33 g of HOBt, 14.53 ml of NEM and, with stirring, 25 g of DCC are added, and the mixture is left to stand overnight at room temperature. After the urea has been filtered off, the solvent is distilled off in vacuo and the oily residue is recrystallized from 200 ml of 80% strength ethanol.

reactant | Z-D-Lys(Boc)-OH | 43.2 g | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H28N2O6
reactant | H-Phe-OMe.HCl | 24.5 g | N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl
reactant | HOBt | 15.33 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | Z-D-Lys(Boc)-Phe-OMe | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C29H39N3O7
